US08754226B2
(S)-3-(2-fluoro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one 2,2,2-trifluoroacetate (150 mg, 0.316 mmol) was dissolved in DMSO (3 mL) and 2,5-dichloropyrazine (70.7 mg, 0.474 mmol) and N-ethyl-N-isopropylpropan-2-amine (138 μL, 0.790 mmol) were added and the reaction heated to 100° C. overnight. The reaction was cooled and diluted with water, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified twice over silica gel (100% EtOAc) to afford (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenoxy)pyrrolidin-2-one (15.2 mg, 0.0321 mmol, 10.2% yield) as a red solid. Mass spectrum (apci) m/z=473.1 (M+H).

reactant | (S)-3-(2-fluoro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one 2,2,2-trifluoroacetate | 0.316 mmol, 150 mg | FC(C(=O)O)(F)F.FC1=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=CC(=C1)C=1OC(=NN1)C
reactant | 2,5-dichloropyrazine | 0.474 mmol, 70.7 mg | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.790 mmol, 138 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenoxy)pyrrolidin-2-one | 0.0321 mmol, 15.2 mg, 10.2% yield | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C=C1)C=1OC(=NN1)C)F)=O | C22H22ClFN6O3
